US04820729
A. Ethyl N-(5-Indanyl)-Glycinate
To a solution of 5-aminoindan (15.0 g, 0.1128 mol) and triethylamine (11.92 g, 0.1184 mol) in 200 ml ethanol was added dropwise ethyl bromoacetate (18.83 g, 0.1128 mol). After the addition was complete the mixture was stirred at room temperature for 24 h and concentrated in vacuo. The residue was dissolved in ether, washed with H2O (4×300 ml), brine and dried (MgSO4). Concentration of the volatiles in vacuo provided a crystalline material which was recrystallized from petroleum ether; b.p. 30°-60° C., m.p. 49° C.

reactant | 5-aminoindan | 0.1128 mol, 15.0 g | NC=1C=C2CCCC2=CC1 | C9H11N
reactant | triethylamine | 0.1184 mol, 11.92 g | C(C)N(CC)CC | C6H15N
reactant | ethyl bromoacetate | 0.1128 mol, 18.83 g | BrCC(=O)OCC | C4H7BrO2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | Ethyl N-(5-Indanyl)-Glycinate | C1CCC2=CC(=CC=C12)NCC(=O)OCC | C13H17NO2
